US07994185B2
Step B: N-{2-fluoro-3-[2-(4-methyl-4-piperidinyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
To a solution of 1,1-dimethylethyl 4-[4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate (98 mg, 0.160 mmol) in dichloromethane (DCM) (2 mL) was added TFA (0.5 mL, 6.49 mmol), and the reaction mixture was stirred for 1 h. The reaction mixture was concentrated and the residue was purified using RP-HPLC. The TFA salt was neutralized to the title compound (26 mg). MS (ESI): 514.2 [M+1]+.

reactant | 1,1-dimethylethyl 4-[4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate | 0.160 mmol, 98 mg | FC1=C(C=CC=C1NS(=O)(=O)C1=COC=C1)C=1N=C(SC1C1=NC(=NC=C1)C)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C29H32FN5O5S2
reactant | TFA | 6.49 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-{2-fluoro-3-[2-(4-methyl-4-piperidinyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)C)C1(CCNCC1)C)NS(=O)(=O)C1=COC=C1 | C24H24FN5O3S2
